US06638967B2
1-[4-(4-Bromo-benzyloxy)-benzyl]-pyrrolidine
The mixture of 4-hydroxybenzyl-pyrrolidine (177 mg), 4-bromo-benzylchloride (205 mg), and t-Bu3ONa (192 mg) in ethanol (10 mL) was heated at 80° C. for overnight. Concentration and preparative TLC provided the title compound (200 mg). 1H NMR (400 MHz, CDCI3)δ7.50 (d, J=6.5 Hz, 2 H), 7.32 (d, J=6.5 Hz, 2 H), 7.25 (d, J=6.5 Hz, 2 H), 6.90 (d, J=6.5 Hz, 2 H), 2.84 (s, 2 H), 2.50 (m, 4 H), 1.42 (m, 4 H).

reactant | 4-hydroxybenzyl-pyrrolidine | 177 mg | OC1=CC=C(CN2CCCC2)C=C1 | C11H15NO
reactant | 4-bromo-benzylchloride | 205 mg | BrC1=CC=C(CCl)C=C1 | C7H6BrCl
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 1-[4-(4-Bromo-benzyloxy)-benzyl]-pyrrolidine | 200 mg | BrC1=CC=C(COC2=CC=C(CN3CCCC3)C=C2)C=C1 | C18H20BrNO
